US07872036B2
53 g of sodium nitrite was added to 300 ml of concentrated sulfuric acid at 50° C. or lower, and 300 ml of acetic acid was added dropwise at 50° C. or lower. To this mixed solution, 100 ml of an acetic acid solution of 182 g of 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)aniline was added dropwise over a period of 2 hours at 20° C. or lower, followed by stirring at 20° C. for 3 hours. The reaction mixture was added dropwise at 5° C. or lower to a mixed solution of 390 g of tin(II)chloride dihydrate and 1,000 ml of 6N hydrochloric acid, followed by stirring for 30 minutes. Toluene was added to this reaction mixture, and the reaction mixture was neutralized with a 10% aqueous sodium hydroxide solution. The insolubles were filtered off, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 177 g of 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine.

reactant | sodium nitrite | 53 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)aniline | 182 g | FC1=C(N)C=C(C(=C1)C)SCC(F)(F)F | C9H9F4NS
reactant | tin(II)chloride dihydrate | 390 g | O.O.[Sn](Cl)Cl
reactant | hydrochloric acid | 6N, 1,000 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine | 177 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN | C9H10F4N2S
